US07795283B2
ii) Methyl 4-methylpiperidine-4-carboxylate hydrochloride
4M HCl in dioxane (25 mL) was added to 1-tert-butyl 4-methyl 4-methylpiperidine-1,4-dicarboxylate (5.28 g, 20.55 mmol) at ambient temperature. The reaction mixture was allowed to stir at ambient temperature for 5 hrs. The solvent was removed under reduced pressure and ether was added to the residue and the suspension was filtered and dried to give the title compound as a white solid (3.82 g, 19.72 mmol, 96%); 1H NMR δ 1.12 (s, 3H), 1.53-1.60 (m, 2H), 1.99-2.04 (m, 2H), 2.76-2.82 (m, 2H), 3.07-3.12 (m, 2H), 3.61 (s, 3H), 8.72 (s, 1H); MS m/e MH+-157

reactant | HCl | 4M | Cl | ClH
reactant | 1-tert-butyl 4-methyl 4-methylpiperidine-1,4-dicarboxylate | 20.55 mmol, 5.28 g | CC1(CCN(CC1)C(=O)OC(C)(C)C)C(=O)OC | C13H23NO4
solvent | dioxane | 25 mL | O1CCOCC1 | C4H8O2
product | Methyl 4-methylpiperidine-4-carboxylate hydrochloride | 19.72 mmol, 3.82 g, 96% | Cl.CC1(CCNCC1)C(=O)OC | InChI=1S/C8H15NO2.ClH/c1-8(7(10)11-2)3-5-9-6-4-8;/h9H,3-6H2,1-2H3;1H
